US08044041B2
To a solution of 1-benzylamino-4-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (62 mg, 0.11 mmol) in pyridine was added CuCN (30 mg, 0.34 mmol). The solution was heated to 90° C. for 1 hour, then concentrated under vacuum. Flash chromatography (hexanes/EtOAc) was used to obtain 4-Cyano-1-benzylamino-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (25 mg, 50%) as a yellow solid. 1H-NMR (DMSO-d6) δ: 4.94 (d, 2H), 7.26 (m, 1H), 7.34 (t, 2H), 7.43 (d, 2H), 7.52 (d, 1H), 7.66 (t, 1H), 8.10 (d, 1H), 8.26 (s, 1H), 8.52 (m, 2H), 8.65 (d, 1H), 9.21 (t, 1H), 11.0 (s, 1H).

reactant | 1-benzylamino-4-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.11 mmol, 62 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)NCC1=CC=CC=C1)I)(F)F | C23H16F3IN4O
reactant | CuCN | 0.34 mmol, 30 mg | C(#N)[Cu]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Cyano-1-benzylamino-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 25 mg, 50% | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)NCC1=CC=CC=C1)C#N)(F)F | C24H16F3N5O
